US07915443B2
(S)-5-({3-[(methoxyamino)carbonyl]phenyl}ethynyl)-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide
In a manner similar to that described in Example 460 (step 2), (S)-5-bromo-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide (0.100 g, 0.295 mmol) and 3-Ethynyl-N-methoxy-benzamide (0.106 g, 0.442 mmol) were reacted to give the title compound yield (0.126 g, 86%).

reactant | (S)-5-bromo-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide | 0.295 mmol, 0.100 g | BrC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C13H11BrN2O2S
reactant | 3-Ethynyl-N-methoxy-benzamide | 0.442 mmol, 0.106 g | C(#C)C=1C=C(C(=O)NOC)C=CC1 | C10H9NO2
product | (S)-5-({3-[(methoxyamino)carbonyl]phenyl}ethynyl)-N-[methyl(oxido)phenyl--sulfanylidene]nicotinamide | CONC(=O)C=1C=C(C=CC1)C#CC=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C23H19N3O4S
